US06914074B2
7-Methoxy-1-cyanonaphthalene
To a mixture of 7-methoxy-3,4-dihydronaphthalene-1-carbonitrile (9.95 g, 53.1 mmol) in p-cymene (100 mLs) was added 10% Pd/C (5 g), the reaction mixture was stirred and heated to 150° C. overnight. The mixture was cooled and the catalyst removed by filtering through filter aid. The p-cymene was removed on the rotovap with the vacuum pump, giving a liquid which solidified on standing. The solid was slurried in hexane, filtered and dried to afford a white solid (4.3 g, 44%). A portion was purified further by silica gel (10% ethyl acetate-hexanes) to produce a white solid: mp 77-78° C.;

reactant | 7-methoxy-3,4-dihydronaphthalene-1-carbonitrile | 53.1 mmol, 9.95 g | COC1=CC=C2CCC=C(C2=C1)C#N | C12H11NO
solvent | p-cymene | 100 mLs | CC=1C=CC(=CC1)C(C)C | C10H14
solvent | hexane | CCCCCC | C6H14
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 7-Methoxy-1-cyanonaphthalene | 4.3 g, 44% | COC1=CC=C2C=CC=C(C2=C1)C#N | C12H9NO
